US08034812B2
Production of 2-chloro-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-6-methylisonicotinamide
To a solution of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (95 mg, 0.307 mmol) in N,N-dimethylformamide (5 mL) were added 2-chloro-6-methylpyridine-4-carboxylic acid (58 mg, 0.337 mmol), N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (65 mg, 0.337 mmol) and 1-hydroxybenzotriazole (46 mg, 0.337 mmol), and the mixture was stirred at room temperature for 2 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=3/97→100/0) and precipitated from ethyl acetate/hexane to give the title compound (115 mg, 82%) as a white powder.

reactant | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.307 mmol, 95 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1 | C16H15N5O2
reactant | 2-chloro-6-methylpyridine-4-carboxylic acid | 0.337 mmol, 58 mg | ClC1=NC(=CC(=C1)C(=O)O)C | C7H6ClNO2
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.337 mmol, 65 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.337 mmol, 46 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-chloro-N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-6-methylisonicotinamide | 115 mg, 82% | ClC=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=C(N1)C | C23H19ClN6O3
